US05354769
2-(benzofuran-2-yl)imidazole hydrochloride
A solution of aminoacetaldehyde dimethylacetal (7.3 g) and methyl benzofuran-2carboximidate hydrochloride (13.4 g) in methanol (135 ml) was stirred at 60° C. for 16 hours. The mixture was then evaporated to dryness. Hydrochloric acid (750 ml, 2M) was added and the resulting mixture was stirred at 60° C. for 16 hours. After cooling, the solution was washed with dichloromethane. The aqueous layer was basified with sodium hydroxide and the free base was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried. Evaporation of the solvent gave a solid residue which was dissolved in diethyl ether/ethanol. Ethereal HCl was added to solution and the precipitated salt was collected by filtration (12.5 g, 90%).

reactant | aminoacetaldehyde dimethylacetal | 7.3 g | COC(CN)OC | C4H11NO2
reactant | methyl benzofuran-2carboximidate hydrochloride | 13.4 g | Cl.O1C(=CC2=C1C=CC=C2)C(OC)=N
reactant | HCl | Cl | ClH
solvent | methanol | 135 ml | CO | CH4O
solvent | diethyl ether ethanol | C(C)OCC.C(C)O
product | 2-(benzofuran-2-yl)imidazole hydrochloride | Cl.O1C(=CC2=C1C=CC=C2)C=2NC=CN2 | InChI=1S/C11H8N2O.ClH/c1-2-4-9-8(3-1)7-10(14-9)11-12-5-6-13-11;/h1-7H,(H,12,13);1H
